US07977482B2
Step 1: Synthesis of 2-{[4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]-phenyl}diazenyl)-1,3-thiazol-5-yl]methylidene}-1H-indene-1,3(2H)-dione
3.5 g (10.33 mmol) 4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-diazenyl)-1,3-thiazole-5-carbaldehyde and 2.33 g (15.50 mmol) 1H-indene-1,3(2H)-dione were dissolved in 90 ml ethanole and stirred under reflux. After 6 hours the mixture was allowed to cool to room temperature. The formed precipitate was filtered, washed with ethanol and dried in vacuum at 40° C. to obtain a dark powder.

reactant | 4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-diazenyl)-1,3-thiazole-5-carbaldehyde | 10.33 mmol, 3.5 g | ClC=1N=C(SC1C=O)\N=N\C1=CC=C(C=C1)N(CCO)CC | C14H15ClN4O2S
reactant | 1H-indene-1,3(2H)-dione | 15.50 mmol, 2.33 g | C1(CC(C2=CC=CC=C12)=O)=O | C9H6O2
product | 2-{[4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]-phenyl}diazenyl)-1,3-thiazol-5-yl]methylidene}-1H-indene-1,3(2H)-dione | ClC=1N=C(SC1C=C1C(C2=CC=CC=C2C1=O)=O)\N=N\C1=CC=C(C=C1)N(CCO)CC | C23H19ClN4O3S
